US06610723B2
(1-Isoquinolin-3-yl-1H-imidazol-4-yl)-methanol
Following the general method described in example 298, 1-isoquinolin-3-yl-1H-imidazole-4-carboxylic acid ethyl ester was reacted with lithium aluminum hydride followed by hydrolytic workup and chromatography. The title compound was obtained as an off-white waxy solid. MS: m/e=226 (M+H+).

reactant | 1-isoquinolin-3-yl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CN(C1)C=1N=CC2=CC=CC=C2C1 | C15H13N3O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (1-Isoquinolin-3-yl-1H-imidazol-4-yl)-methanol | C1=NC(=CC2=CC=CC=C12)N1C=NC(=C1)CO | C13H11N3O
